US05534520
(c) 4-Amino-4-hydroxymethyl-1-methylpiperidine
Lithium aluminum hydride powder (15.62 g., 0.412 mole) in dry tetrahydrofuran (THF) (600 ml.) was heated under reflux for 15 minutes, after which 4-amino-1-methylpiperidine-4-carboxylic acid (31.0 g., 0.196 mole) in the form of a dry powder was added portionwise under nitrogen, with efficient stirring. After the addition was completed, the reaction mixture was heated under reflux for four hours, cooled to 0° C. under nitrogen with efficient stirring, worked up by careful slow addition of water (20 ml.), 15% aqueous NaOH (20 ml.) and again water (10 ml.). The reaction mixture was filtered and the precipitate was extracted with boiling THF (3 ×150 ml.). The THF liltrate and the extracts were combined and the solvent removed at 25 mm to give a yellow viscous oil (28.0 g., 98.9% yield).

reactant | Lithium aluminum hydride | 0.412 mole, 15.62 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-amino-1-methylpiperidine-4-carboxylic acid | 0.196 mole, 31.0 g | NC1(CCN(CC1)C)C(=O)O | C7H14N2O2
reactant | water | 20 ml | O | H2O
reactant | NaOH | 20 ml | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 4-Amino-4-hydroxymethyl-1-methylpiperidine | 98.9% yield | NC1(CCN(CC1)C)CO | C7H16N2O
